US04558047
To a solution of 5-fluorocytidine (2.42 g) and 2-aminopyrimidine (0.95 g) in water (50 ml) was added sodium metaperiodate (2.13 g) under cooling with an ice-water bath. The solution was stirred at ambient temperature for 8 hours. To the reaction mixture was added methanol (50 ml). The precipitate was filtered off and the filtrate was evaporated in vacuo. The residue was triturated with acetone and air-dried to give 1-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]-5-fluorocytosine (2.3 g).

reactant | 5-fluorocytidine | 2.42 g | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)N | C9H12FN3O5
reactant | 2-aminopyrimidine | 0.95 g | NC1=NC=CC=N1 | C4H5N3
reactant | sodium metaperiodate | 2.13 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 1-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(2-pyrimidinyl)morpholin-2-yl]-5-fluorocytosine | 2.3 g | OC1N(C([C@H](O[C@H]1N1C(=O)N=C(N)C(=C1)F)CO)O)C1=NC=CC=N1 | C13H15FN6O5
